US09353108B2
J) Methyl 2-ethyl-5-oxo-6-(piperidin-4-yl)-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride
A mixture of 2M hydrogen chloride (methanol solution, 236 mL) and methyl 6-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate (19.7 g) was stirred at room temperature under nitrogen atmosphere for 4 hours and concentrated in vacuo. The residue was crystallized from methanol and ethyl acetate. After filtration, the crystals were washed with ethyl acetate to give the title compound (18.5 g).

reactant | hydrogen chloride | 2M, 236 mL | Cl | ClH
reactant | methyl 6-(1-(tert-butoxycarbonyl)piperidin-4-yl)-2-ethyl-5-oxo-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate | 19.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1C(C=2C=C(C(=NC2CC1)CC)C(=O)OC)=O | C22H31N3O5
product | Methyl 2-ethyl-5-oxo-6-(piperidin-4-yl)-5,6,7,8-tetrahydro-1,6-naphthyridine-3-carboxylate dihydrochloride | 18.5 g | Cl.Cl.C(C)C1=NC=2CCN(C(C2C=C1C(=O)OC)=O)C1CCNCC1 | InChI=1S/C17H23N3O3.2ClH/c1-3-14-13(17(22)23-2)10-12-15(19-14)6-9-20(16(12)21)11-4-7-18-8-5-11;;/h10-11,18H,3-9H2,1-2H3;2*1H
